US03947470
2-(4-Chlorophenyl)-3-[4-(3-diethylaminopropoxy)benzoyl]benzofuran
Reaction of 2-(4-chlorophenyl)-3-(4-hydroxybenzoyl)-benzofuran with 3-diethylaminopropyl chloride according to the procedure of Example 1 gives the title compound.

reactant | 2-(4-chlorophenyl)-3-(4-hydroxybenzoyl)-benzofuran | ClC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)O)=O)C=CC=C2 | C21H13ClO3
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 2-(4-Chlorophenyl)-3-[4-(3-diethylaminopropoxy)benzoyl]benzofuran | ClC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCCN(CC)CC)=O)C=CC=C2 | C28H28ClNO3
